US06057358
4-Nitro-2-(1H-pyrrol-1-yl)phenol (2.3 g, 112.6 mmol) and dibromoethane (29.1 ml, 337.8 mmol) were dissolved in DMF (200 ml) and, after adding K2CO3 (18.68 g), the solution was stirred at 70° C. for 1 h. Thereafter, an aqueous solution of 10% sodium hydroxide was added to the reaction solution to render it basic up to a pH of about 10, followed by three extractions with ethyl acetate. The organic solvent layers were combined and dried with magnesium sulfate, followed by evaporation of the solvent. The resulting residue was purified by being subjected to column chromatography on silica gel using a 3:1 solvent system of n-hexane and ethyl acetate as an eluent. The fractions containing the product were collected and the solvent was evaporated to yield the end product 4-nitro-2-(1H-pyrrol-1-yl)phenoxy-2-bromoethane (15.8 g).

reactant | 4-Nitro-2-(1H-pyrrol-1-yl)phenol | 112.6 mmol, 2.3 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)N1C=CC=C1 | C10H8N2O3
reactant | dibromoethane | 337.8 mmol, 29.1 ml | BrC(C)Br | C2H4Br2
reactant | K2CO3 | 18.68 g | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 4-nitro-2-(1H-pyrrol-1-yl)phenoxy-2-bromoethane | 15.8 g | [N+](=O)([O-])C1=CC(=C(OCCBr)C=C1)N1C=CC=C1 | C12H11BrN2O3
